US09388173B2
Step 1: tert-butyl 3-((5-bromo-2-nitrophenyl)amino)azetidine-1-carboxylate
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (500 mg, 2.27 mmol) and tert-butyl 3-aminoazetidine-1-carboxylate (390 mg, 2.27 mmol) in DMSO (5 mL) was added DIPEA (351 mg, 2.72 mmol). The solution was stirred in sealed tube at room temperature for 16 h after which time, LCMS showed the completion of the reaction. The solution was diluted with water (100 mL) and DCM (100 mL) and the organic layer washed with water (30 mL×2) and brine (30 mL) and dried over anhydrous Na2SO4, then filtered and concentrated to give desired crude product (660 mg, Yield 80%). LCMS (m/z): 372.1 (M+1) which was used in the next step without further purification.

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 2.27 mmol, 500 mg | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | 2.27 mmol, 390 mg | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
reactant | DIPEA | 2.72 mmol, 351 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-((5-bromo-2-nitrophenyl)amino)azetidine-1-carboxylate | 660 mg, Yield 80% | BrC=1C=CC(=C(C1)NC1CN(C1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H18BrN3O4
